US09353061B2
Synthesis of Fluva-HA ((3R,5S,6E)-7-[3-(4-Fluorophenyl)-1-isopropyl-1H-indol-2-yl]-3,5-dihydroxy-N-hydroxy-6-heptenamide)
To a solution of fluvastatin (100 mg, 0.25 mmol, in the lactone form) in THF (1 mL) was added 50% hydroxylamine in H2O (0.12 mL, 1.91 mmol). The mixture was stirred at ambient temperature for 16 h, and concentrated under reduced pressure. The residue was extracted with CH2Cl2. The organic layer was washed with brine, dried over MgSO4, filtered, concentrated, and purified by flash chromatography (silica gel; CH2Cl2/MeOH/NEt3 (89:1:9 to 5:5:1)) to give fluva-HA (30 mg, 30%). C24H27FN2O4; white foam; TLC (CH2C1-2/MeOH (9:1)) Rf=0.13; 1H NMR (CDCl3, 400 MHz) δ 7.57-7.59 (1H, d, J=8.4 Hz), 7.41-7.44 (3H, m), 7.13-7.19 (3H, m), 6.99-7.03 (1H, t), 6.69-6.73 (1H, d, J=14.8 Hz), 5.74-5.79 (1H, dd, J=16.4 Hz), 4.95 (1H, br s), 4.39-4.42 (1H, m), 4.21-4.24 (1H, m), 2.24-2.25 (2H, m), 1.64-1.73 (6H, m), 1.32-1.36 (2H, m) ppm; ESI-HRMS calcd for C24H28FN2O4: 427.2033. found: m/z 427.2034 [M+H]+.

reactant | fluvastatin | CC(C)N1C=2C=CC=CC2C(=C1/C=C/C(CC(CC(=O)O)O)O)C=3C=CC(=CC3)F | C24H26FNO4
reactant | hydroxylamine | NO | H3NO
reactant | H2O | 1.91 mmol, 0.12 mL | O | H2O
reactant | MeOH | CO | CH4O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | (3R,5S,6E)-7-[3-(4-Fluorophenyl)-1-isopropyl-1H-indol-2-yl]-3,5-dihydroxy-N-hydroxy-6-heptenamide | FC1=CC=C(C=C1)C1=C(N(C2=CC=CC=C12)C(C)C)/C=C/[C@H](C[C@H](CC(=O)NO)O)O | C24H27FN2O4
